US07544697B2
Hydrogen chloride (21 mL of a 3.6 M solution in ethanol) was added to a solution of tert-butyl 2-(4-bromo-3-cyano-1-ethyl-1H-pyrazol-5-yl)-1,1-dimethylethylcarbamate (5.6 g, 15 mmol), prepared in Example 1244, in ethanol (75 mL), and the reaction was stirred at room temperature for two days and concentrated under reduced pressure. The residue was suspended in water (50 mL), and aqueous sodium hydroxide (50% w/w) was added to adjust the mixture to pH 12. The basic mixture was extracted with dichloromethane (2×50 mL), and the combined extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 4.1 g of 5-(2-amino-2-methylpropyl)-4-bromo-1-ethyl-1H-pyrazole-3-carbonitrile as a colorless oil.

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl 2-(4-bromo-3-cyano-1-ethyl-1H-pyrazol-5-yl)-1,1-dimethylethylcarbamate | 15 mmol, 5.6 g | BrC=1C(=NN(C1CC(C)(C)NC(OC(C)(C)C)=O)CC)C#N | C15H23BrN4O2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 5-(2-amino-2-methylpropyl)-4-bromo-1-ethyl-1H-pyrazole-3-carbonitrile | 4.1 g | NC(CC1=C(C(=NN1CC)C#N)Br)(C)C | C10H15BrN4
